Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9],-6.1632971579900016
[C:3]#[C:4][C:5]([H:6])[C:7][O:8][H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7][O:8][H:9],-8.22925238462
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.45348356019
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:6](=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],2.00136829757
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],5.01214480126
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[H:9],4.546859459069998
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.82342557009
[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.0337716739400005
[H:17].[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.5631782386
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15],5.06037756398
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.89289743581
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.7156731635299998
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.03481174244
[H:1][C:2][O:3][C:4][C:5]#[C:7][O:8][H:9].[H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-2.40731025746
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.29664067033
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.8918955990400006
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-5.05072973674
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:12]([H:13])[H:14],1.2769449296
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],7.73832041508
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.58764716373
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8].[H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9],-3.81973249537
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.11435647021
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],6.41641629245
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.99542641866
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.57627040196
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8])[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8][C:9]1([H:10])[H:11],-2.13645285095
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.94281165834
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.01436320716
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]1[C:2][C:3]1[H:4],0.8677536324189999
